US05792788
2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(amino-carbonylaminosulfonyl)thiophene
299 mg (0.8 mmol of 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoylthiophene were treated with 448 mg of KOCN and 0.6 ml of triethylamine, and the mixture was then heated to reflux for 4 h. The cooled solution was filtered and evaporated to dryness. The residue was stirred with 40 ml of H2O, 25 ml of triethylamine and 25 ml of ethyl acetate. The organic phase was extracted 3 times with water/1% triethylamine. The combined aqueous phases were acidified with 2N hydrochloric acid. The precipitate formed was stirred in an ice bath for 3 hours and filtered off with suction.

reactant | 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-5-sulfamoylthiophene | 0.8 mmol | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(N)(=O)=O)C1)OC | C14H15ClN2O4S2
reactant | KOCN | 448 mg | O([K])C#N
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | 2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-5-(amino-carbonylaminosulfonyl)thiophene | ClC=1C=CC(=C(C(=O)NCCC=2SC(=CC2)S(=O)(=O)NC(=O)N)C1)OC | C15H16ClN3O5S2
